* Schematics Netlist *



X_U3         b 0 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01 Ropen=1Meg
R_R2         c a  4.68k  
L_L3         a b  10.63mH  
V_V2         c 0  
+PULSE 0V 12V 0s 0.1us 0.1us 15us 30us
