* Schematics Netlist *



X_U1         $N_0001 $N_0002 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         $N_0002 a  4.68k  
R_R2         0 b  14.45k  
L_L1         a b  212.5mH IC=4mH 
V_V2         $N_0001 0  
+PULSE 16 0 0 .1ns .1ns 22us 44us
